US06355636B1
To 650 mg of 6-chloro-4-hydroxy-[1.7]naphthyridine-3-carbonitrile under an inert atmosphere was added 20 mL of phosphorous oxychloride. After two hours at reflux, the excess phosphorous oxychloride was removed in vacuo and ice-water and chloroform were added. Solid potassium carbonate was then added carefully to a pH of about 8. The chloroform layer was washed with brine, dried with sodium sulfate, and stripped to give a crude product. This material was further purified by passing it through a plug of silica gel with 5% ethyl acetate/chloroform to give approximately 600 mg of 4,6-dichloro-[1.7]naphthyridine-3-carbonitrile as a yellowish solid, which was used in the following step.

reactant | 6-chloro-4-hydroxy-[1.7]naphthyridine-3-carbonitrile | 650 mg | ClC=1C=C2C(=C(C=NC2=CN1)C#N)O | C9H4ClN3O
reactant | phosphorous oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4,6-dichloro-[1.7]naphthyridine-3-carbonitrile | approximately 600 mg | ClC1=C(C=NC2=CN=C(C=C12)Cl)C#N | C9H3Cl2N3
